US04053430
3,5-Dichloro-2-hydroxybenzenesulfonyl chloride is prepared according to the procedure of Example 6 of U.S. Pat. No. 3,453,099, whereby 2,4-dichlorophenol (0.05 mole) is reacted with 2.5 moles of chlorosulfonic acid at room temperature. The mixture is poured onto ice and the acid layer decanted from the warmed mixture. The product is washed with ice water and recrystallized from carbon tetrachloride; m.p. 81°-83° C.

reactant | 2,4-dichlorophenol | 0.05 mole | ClC1=C(C=CC(=C1)Cl)O | C6H4Cl2O
reactant | chlorosulfonic acid | 2.5 moles | ClS(=O)(=O)O | ClHO3S
product | 3,5-Dichloro-2-hydroxybenzenesulfonyl chloride | ClC=1C(=C(C=C(C1)Cl)S(=O)(=O)Cl)O | C6H3Cl3O3S
